US04197245
Preparation of 1,9-dioxo-16-hydroxy-1-acetoxymethyl-16-methyl-10,13-trans-prostadiene
To a solution of 0.1 g of 1,9-dioxo-16-hydroxy-1-hydroxymethyl-16-methyl-10,13-trans-prostadiene in 0.75 ml of pyridine is added 0.026 g of acetic anhydride. After 18 hours at room temperature, the solvent is removed at reduced pressure and the residue is chromatographed on silica gel to give the title compound.

reactant | 1,9-dioxo-16-hydroxy-1-hydroxymethyl-16-methyl-10,13-trans-prostadiene | 0.1 g | O=C(CCCCCC[C@H]1C(C=C[C@@H]1\C=C\CC(CCCC)(C)O)=O)CO | C22H36O4
reactant | acetic anhydride | 0.026 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.75 ml | N1=CC=CC=C1 | C5H5N
product | 1,9-dioxo-16-hydroxy-1-acetoxymethyl-16-methyl-10,13-trans-prostadiene | O=C(CCCCCC[C@H]1C(C=C[C@@H]1\C=C\CC(CCCC)(C)O)=O)COC(C)=O | C24H38O5
